US07629342B2
To a round bottom flask was added 2-benzyl-4,5-dichloropyridazin-3(2H)-one (7.14 gm, 27.99 mmol), dioxane (125 ml, anhydrous). To the resulting reaction mixture was slowly added 25%/NaOMe in MeOH solution (6.98 ml, 30.51 mmol). The reaction was stirred at rt for 70 min. After this time, the reaction mixture was diluted with water (200 ml). The resulting solution was poured into a separatory funnel and extracted with CH2Cl2 (2×100 ml). The combined organic layers were washed with saturated aqueous NaCl (10 ml). The organic layer was then slurried with MgSO4 to remove excess water, filtered and concentrated to give the crude product. The crude product was purified using an automated column chromatography system (ISCO, 120 gm silica gel) eluting with 0-5% MeOH/CH2Cl2 to give product 2-benzyl-5-chloro-4-methoxypyridazin-3(2H)-one as colorless oil (6.5 gm, 93% yield). HPLC retention time (method A) 3.090 min; LCMS (M+H)=251.2.

reactant | 2-benzyl-4,5-dichloropyridazin-3(2H)-one | 27.99 mmol, 7.14 gm | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)Cl | C11H8Cl2N2O
reactant | dioxane | 125 ml | O1CCOCC1 | C4H8O2
reactant | NaOMe | C[O-].[Na+]
reactant | MeOH | 30.51 mmol, 6.98 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | 2-benzyl-5-chloro-4-methoxypyridazin-3(2H)-one | 6.5 gm, 93% yield | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)OC)Cl | C12H11ClN2O2
